### PR TITLE
[Merged by Bors] - feat: Flat triangles have aligned vertices

### PR DESCRIPTION
**Pull request by YaelDillies**
In a normed torsor over a strictly convex space, if the triangle inequality `dist a c ≤ dist a b + dist b c` is an equality, then `b` lies between `a` and `c`.

---

Requested by @b-mehta

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean [hunk 1]
```diff
@@ -78,3 +80,21 @@ theorem Collinear.sbtw_of_dist_eq_of_dist_lt {p p₁ p₂ p₃ : P} {r : ℝ}
...
+
+/-- If the triangle `abc` is flat (the triangle inequality is an equality), then `b` lies between
+`a` and `c`. -/
+lemma wbtw_of_dist_add_dist_eq_dist (habc : dist a b + dist b c = dist a c) : Wbtw ℝ a b c := by
+  obtain rfl | hac := eq_or_ne a c
+  · simpa [dist_comm, eq_comm] using habc
+  refine ⟨dist a b / dist a c, ⟨by positivity, div_le_one_of_le ?_ $ by positivity⟩, Eq.symm $
+    eq_lineMap_of_dist_eq_mul_of_dist_eq_mul (div_mul_cancel _ $ dist_ne_zero.2 hac).symm ?_⟩
+  · rw [←habc]
+    exact le_add_of_nonneg_right $ by positivity
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/StrictConvexBetween.lean:97]:
```suggestion
    exact le_add_of_nonneg_right <| by positivity
```
and one or two more.

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean [hunk 2]
```diff
@@ -78,3 +80,21 @@ theorem Collinear.sbtw_of_dist_eq_of_dist_lt {p p₁ p₂ p₃ : P} {r : ℝ}
...
 #align collinear.sbtw_of_dist_eq_of_dist_lt Collinear.sbtw_of_dist_eq_of_dist_lt
+
+end PseudoMetricSpace
+
+section MetricSpace
+variable [MetricSpace P] [NormedAddTorsor V P] {a b c : P}
+
+/-- If the triangle `abc` is flat (the triangle inequality is an equality), then `b` lies between
+`a` and `c`. -/
+lemma wbtw_of_dist_add_dist_eq_dist (habc : dist a b + dist b c = dist a c) : Wbtw ℝ a b c := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/StrictConvexBetween.lean:91]: Is this any different to [`dist_add_dist_eq_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/StrictConvexSpace.html#dist_add_dist_eq_iff)?

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/StrictConvexBetween.lean:91]: To the extent that my result works for normed torsors, yes. But really we eventuially want `segment` to work on normed torsors.

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean [hunk 3]
```diff
@@ -78,3 +91,24 @@ theorem Collinear.sbtw_of_dist_eq_of_dist_lt {p p₁ p₂ p₃ : P} {r : ℝ}
...
+TODO: Deduplicate from `dist_add_dist_eq_iff`. -/
+lemma dist_add_dist_eq_iff_wbtw : dist a b + dist b c = dist a c ↔ Wbtw ℝ a b c := by
+  obtain rfl | hac := eq_or_ne a c
+  · simp [dist_comm, eq_comm]
+  refine ⟨fun habc ↦ ?_, Wbtw.dist_add_dist⟩
+  refine ⟨dist a b / dist a c, ⟨by positivity, div_le_one_of_le ?_ <| by positivity⟩, Eq.symm <|
+    eq_lineMap_of_dist_eq_mul_of_dist_eq_mul (div_mul_cancel _ <| dist_ne_zero.2 hac).symm ?_⟩
+  · rw [←habc]
+    exact le_add_of_nonneg_right <| by positivity
+  · rwa [one_sub_mul, div_mul_cancel _ <| dist_ne_zero.2 hac, eq_sub_iff_add_eq']
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/StrictConvexBetween.lean:112]: I had a slightly shorter proof of this in a branch somewhere,
```
theorem dist_add_dist_eq_iff' (x y z : P) : dist x y + dist y z = dist x z ↔ Wbtw ℝ x y z := by
  have :
      dist (x -ᵥ x) (y -ᵥ x) + dist (y -ᵥ x) (z -ᵥ x) = dist (x -ᵥ x) (z -ᵥ x) ↔
        y -ᵥ x ∈ segment ℝ (x -ᵥ x) (z -ᵥ x) := by
    rw [dist_add_dist_eq_iff]
  simp_rw [dist_vsub_cancel_right, ← affineSegment_eq_segment, ← affineSegment_vsub_const_image] at this 
  rwa [(vsub_left_injective _).mem_set_image] at this
```
but maybe you deliberately didn't want to go via `dist_add_dist_eq_iff`?

File: Mathlib/Analysis/Convex/StrictConvexSpace.lean [hunk 4]
```diff
@@ -233,7 +233,9 @@ theorem not_sameRay_iff_abs_lt_norm_sub : ¬SameRay ℝ x y ↔ |‖x‖ - ‖y
 #align not_same_ray_iff_abs_lt_norm_sub not_sameRay_iff_abs_lt_norm_sub
 
 /-- In a strictly convex space, the triangle inequality turns into an equality if and only if the
-middle point belongs to the segment joining two other points. -/
+middle point belongs to the segment joining two other points.
+
+TODO: Deduplicate from `dist_add_dist_eq_iff_wbtw`. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/StrictConvexSpace.lean:238]: Can you do this in this PR? I think just eliminating the lemma would be fine.

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/StrictConvexSpace.lean:238]: Sure, if you're happy with it.

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/StrictConvexBetween.lean:112]: Yes, because `dist_add_dist_eq_iff` is a less general theorem that will eventually be subsumed. Of course the answer is that we should have a tactic that takes any normed torsor statement, discharges the case where the normed torsor is empty automatically and turns the statement into a normed space one when the normed torsor is nonempty.

But we don't have that. Maybe we could whine about it to @JLimperg?

File: Mathlib/Analysis/Convex/StrictConvexSpace.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Convex/StrictConvexSpace.lean:238]: Please do!

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean [hunk 5]
```diff
@@ -16,10 +16,25 @@ space.
...
 
+variable {V P : Type*} [NormedAddCommGroup V] [NormedSpace ℝ V]
+
+section to_move
 variable {V P : Type*} [NormedAddCommGroup V] [NormedSpace ℝ V] [PseudoMetricSpace P]
+  [NormedAddTorsor V P]
+
+-- TODO: Is there a better place for this lemma?
+lemma Wbtw.dist_add_dist {x y z : P} (h : Wbtw ℝ x y z) : dist x y + dist y z = dist x z := by
+  obtain ⟨a, ⟨ha₀, ha₁⟩, rfl⟩ := h; simp [abs_of_nonneg, ha₀, ha₁, sub_mul]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/StrictConvexBetween.lean:30]: This lemma is now not used, right? Can you remove it?

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/StrictConvexBetween.lean:30]: I could, but I think it's important to have, no?

Comment (eric-wieser) [reply Mathlib/Analysis/Convex/StrictConvexBetween.lean:30]: Ah, I missed that this only needed `PseudoMetricSpace`.

Can you add a docstring that references the `iff`, perhaps
```suggestion
-- TODO: Is there a better place for this lemma?
/-- In `MetricSpace`, this is true as an `Iff`,`dist_add_dist_eq_iff`. -/
lemma Wbtw.dist_add_dist {x y z : P} (h : Wbtw ℝ x y z) : dist x y + dist y z = dist x z := by
  obtain ⟨a, ⟨ha₀, ha₁⟩, rfl⟩ := h; simp [abs_of_nonneg, ha₀, ha₁, sub_mul]
```

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean [hunk 6]
```diff
@@ -16,10 +16,25 @@ space.
 
 -/
 
+open Metric
+open scoped Convex
 
+variable {V P : Type*} [NormedAddCommGroup V] [NormedSpace ℝ V]
+
+section to_move
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/StrictConvexBetween.lean:24]: I don't have a suggestion for where to move this to; does `#find_home` help?

Either way, I think we should drop `section to_move` before merging this.

File: Mathlib/Analysis/Convex/StrictConvexBetween.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/StrictConvexBetween.lean:30]: It's not `PseudoMetricSpace` that's important. It's `StrictConvexSpace`!

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Analysis/Convex/Normed.lean [hunk 7]
```diff
@@ -130,10 +133,16 @@ instance (priority := 100) NormedSpace.instLocPathConnectedSpace : LocPathConnec
...
+  dist x y + dist y z = dist x z := by
+  obtain ⟨a, ⟨ha₀, ha₁⟩, rfl⟩ := h
+  simp [abs_of_nonneg, ha₀, ha₁, sub_mul]
+
 theorem dist_add_dist_of_mem_segment {x y z : E} (h : y ∈ [x -[ℝ] z]) :
     dist x y + dist y z = dist x z := by
-  simp only [dist_eq_norm, mem_segment_iff_sameRay] at *
-  simpa only [sub_add_sub_cancel', norm_sub_rev] using h.norm_add.symm
+  rw [← affineSegment_eq_segment] at h
+  exact Wbtw.dist_add_dist E h
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Normed.lean:145]: @YaelDillies, I found this new home for your lemma; does it looks reasonable?

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Normed.lean]: Looks fine yeah. I mean, the whole situation is not great, but the answer is to refactor convexity so that betweenness comes much earlier. This is a very reasonable compromise in the meantime.

**Comment by eric-wieser** [comment]
bors d+

**Comment by YaelDillies** [comment]
Great, thanks!

bors merge
